US08039493B2
In analogy to example 1, step 3, propane-2-sulfonic acid 3-bromo-benzylamide was reacted with (3-methylsulfonylphenyl)-boronic acid, Na2CO3 and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane adduct in dioxane/water to give propane-2-sulfonic acid (3′-methanesulfonyl-biphenyl-3-ylmethyl)-amide as an off-white solid.

reactant | propane-2-sulfonic acid 3-bromo-benzylamide | BrC=1C=C(CNS(=O)(=O)C(C)C)C=CC1 | C10H14BrNO2S
reactant | (3-methylsulfonylphenyl)-boronic acid | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane water | O1CCOCC1.O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | propane-2-sulfonic acid (3′-methanesulfonyl-biphenyl-3-ylmethyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)CNS(=O)(=O)C(C)C | C17H21NO4S2
